### PR TITLE
feat(NumberTheory/LSeries): Schwarz reflection for Mellin transforms with real kernels

### PR DESCRIPTION
**Pull request by psinary-sketch**
## Summary

Proves that Mellin transforms of real-valued kernels commute with complex
conjugation, and applies this to establish Schwarz reflection for
`completedRiemannZeta₀` and reality on the critical line.

## Main results

**General (any real-valued kernel):**
- `mellin_conj_of_real_kernel`: if `conj(φ(t)) = φ(t)` for all `t`,
  then `mellin φ (conj s) = conj (mellin φ s)`
- `WeakFEPair.Λ₀_conj`: Schwarz reflection for `Λ₀` of any
  `WeakFEPair ℂ` whose `f_modif` is real-valued

**Kernel lemmas:**
- `hurwitzEvenFEPair_f_modif_im_zero`: the kernel has vanishing
  imaginary part
- `hurwitzEvenFEPair_f_modif_conj`: equivalent self-conjugacy formulation

**Specific (completed Riemann zeta):**
- `completedRiemannZeta₀_conj`: `Λ₀(conj s) = conj(Λ₀(s))`
- `completedRiemannZeta₀_ofReal_im`: `Λ₀` is real-valued on `ℝ`
- `completedRiemannZeta₀_im_eq_zero_on_half`: real-valued on the
  critical line `Re(s) = 1/2`
- `completedRiemannZeta₀_deriv_re_eq_zero_on_half`: derivative has
  vanishing real part on the critical line

## Notes

Revised per review feedback from @tb65536: generalized from
`completedRiemannZeta₀` to `WeakFEPair`, added real-on-reals result.
Kernel lemmas promoted from private to public for reuse.

AI disclosure: Claude (Anthropic) used for Mathlib API search
and compilation workflow. Mathematical content and proof
architecture are mine.

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 1]
```diff
@@ -0,0 +1,151 @@
...
+
+@[expose] public section
+
+
+open Complex HurwitzZeta MeasureTheory Set
+
+section SchwarzReflection
+
+private lemma conj_ofReal_two : (starRingEnd ℂ) (2 : ℂ) = 2 :=
+  by exact_mod_cast conj_ofReal 2
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
private lemma conj_ofReal_two : (starRingEnd ℂ) (2 : ℂ) = 2 := by
  exact_mod_cast conj_ofReal 2
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 2]
```diff
@@ -0,0 +1,151 @@
...
+
+private lemma arg_pos_real_ne_pi (t : ℝ) (ht : 0 < t) : ((t : ℂ)).arg ≠ Real.pi := by
+  rw [arg_ofReal_of_nonneg (le_of_lt ht)]
+  exact Real.pi_pos.ne
+
+private lemma cpow_conj_pos_real (t : ℝ) (ht : 0 < t) (w : ℂ) :
+    (t : ℂ) ^ (starRingEnd ℂ w) = starRingEnd ℂ ((t : ℂ) ^ w) := by
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
    t ^ (starRingEnd ℂ w) = starRingEnd ℂ (t ^ w) := by
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 3]
```diff
@@ -0,0 +1,151 @@
...
+private lemma conj_half_sub_one (s : ℂ) :
+    starRingEnd ℂ s / 2 - 1 = starRingEnd ℂ (s / 2 - 1) := by
+  rw [map_sub, conj_div_two, map_one]
+
+/-- The modified kernel of the Hurwitz even FE pair at `a = 0` is real-valued:
+its complex conjugate equals itself. This is because it is built from
+real-valued functions (exponentials of real quadratic forms). -/
+private lemma hurwitzEvenFEPair_f_modif_conj_fixed (t : ℝ) :
+    (hurwitzEvenFEPair 0).f_modif t =
+    starRingEnd ℂ ((hurwitzEvenFEPair 0).f_modif t) := by
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
    (hurwitzEvenFEPair 0).f_modif t = starRingEnd ℂ ((hurwitzEvenFEPair 0).f_modif t) := by
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 4]
```diff
@@ -0,0 +1,151 @@
...
+/-- **Schwarz reflection for the completed Riemann zeta function.**
+The completed Riemann zeta function `Λ₀` satisfies
+`Λ₀(conj(s)) = conj(Λ₀(s))` for all `s : ℂ`.
+
+This follows from the Mellin representation: the kernel is real-valued,
+positive-real powers conjugate correctly, and the integral commutes
+with conjugation. -/
+theorem completedRiemannZeta₀_conj (s : ℂ) :
+    completedRiemannZeta₀ (starRingEnd ℂ s) =
+    starRingEnd ℂ (completedRiemannZeta₀ s) := by
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
    completedRiemannZeta₀ (starRingEnd ℂ s) = starRingEnd ℂ (completedRiemannZeta₀ s) := by
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 5]
```diff
@@ -0,0 +1,151 @@
...
+  change mellin (hurwitzEvenFEPair 0).f_modif (starRingEnd ℂ s / 2) / 2 =
+       starRingEnd ℂ (mellin (hurwitzEvenFEPair 0).f_modif (s / 2) / 2)
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
    starRingEnd ℂ (mellin (hurwitzEvenFEPair 0).f_modif (s / 2) / 2)
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 6]
```diff
@@ -0,0 +1,151 @@
...
+  rw [map_div₀, conj_ofReal_two]
+  congr 1
+  simp only [mellin]
+  have hpt : ∀ t ∈ Ioi (0 : ℝ),
+      (↑t : ℂ) ^ ((starRingEnd ℂ) s / 2 - 1) • (hurwitzEvenFEPair 0).f_modif t =
+      (starRingEnd ℂ) ((↑t : ℂ) ^ (s / 2 - 1) • (hurwitzEvenFEPair 0).f_modif t) := by
+    intro t ht
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
  have hpt {t : ℝ} (ht : Ioi 0) :
    t ^ ((starRingEnd ℂ) s / 2 - 1) • (hurwitzEvenFEPair 0).f_modif t =
      (starRingEnd ℂ) ((↑t : ℂ) ^ (s / 2 - 1) • (hurwitzEvenFEPair 0).f_modif t) := by
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 7]
```diff
@@ -0,0 +1,151 @@
...
+        (hurwitzEvenFEPair 0).f_modif t) :=
+          integral_conj
+
+end SchwarzReflection
+
+section CriticalLine
+
+/-- At `s = 1/2 + it` on the critical line, conjugation gives `1 - s`. -/
+private lemma conj_half_add_mul_I (t : ℝ) :
+    (starRingEnd ℂ) (⟨1/2, t⟩ : ℂ) = 1 - (⟨1/2, t⟩ : ℂ) := by
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
    (starRingEnd ℂ) (⟨1 / 2, t⟩ : ℂ) = 1 - (⟨1 / 2, t⟩ : ℂ) := by
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 8]
```diff
@@ -0,0 +1,151 @@
...
+
+This establishes that zeros of `Λ₀` on the critical line are sign changes
+of a real-valued function (codimension 1), while off-line zeros would
+require the simultaneous vanishing of both real and imaginary parts
+(codimension 2). -/
+theorem completedRiemannZeta₀_im_eq_zero_on_half (t : ℝ) :
+    (completedRiemannZeta₀ ⟨1/2, t⟩).im = 0 := by
+  suffices h : (starRingEnd ℂ) (completedRiemannZeta₀ ⟨1/2, t⟩) =
+               completedRiemannZeta₀ ⟨1/2, t⟩ by
+    exact conj_eq_iff_im.mp h
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
  suffices h :
      (starRingEnd ℂ) (completedRiemannZeta₀ ⟨1 / 2, t⟩) = completedRiemannZeta₀ ⟨1 / 2, t⟩ from
    conj_eq_iff_im.mp h
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 9]
```diff
@@ -0,0 +1,151 @@
...
+  conv_lhs => rw [← completedRiemannZeta₀_conj ⟨1/2, t⟩]
+  rw [conj_half_add_mul_I]
+  exact completedRiemannZeta₀_one_sub ⟨1/2, t⟩
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
  conv_lhs => rw [← completedRiemannZeta₀_conj ⟨1 / 2, t⟩]
  rw [conj_half_add_mul_I]
  exact completedRiemannZeta₀_one_sub ⟨1 / 2, t⟩
```

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 10]
```diff
@@ -0,0 +1,151 @@
...
+
+/-- The completed Riemann zeta function is real-valued at `1/2 + it`,
+stated as `conj(Λ₀(1/2+it)) = Λ₀(1/2+it)`. -/
+theorem completedRiemannZeta₀_conj_eq_self_on_half (t : ℝ) :
+    (starRingEnd ℂ) (completedRiemannZeta₀ ⟨1/2, t⟩) =
+    completedRiemannZeta₀ ⟨1/2, t⟩ := by
+  rw [← completedRiemannZeta₀_conj]
+  rw [conj_half_add_mul_I]
+  exact completedRiemannZeta₀_one_sub ⟨1/2, t⟩
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]:
```suggestion
stated as `conj(Λ₀(1/2 + it)) = Λ₀(1/2 + it)`. -/
theorem completedRiemannZeta₀_conj_eq_self_on_half (t : ℝ) :
    (starRingEnd ℂ) (completedRiemannZeta₀ ⟨1 / 2, t⟩) = completedRiemannZeta₀ ⟨1 / 2, t⟩ := by
  rw [← completedRiemannZeta₀_conj, conj_half_add_mul_I]
  exact completedRiemannZeta₀_one_sub ⟨1 / 2, t⟩
```

**Review by SnirBroshi — COMMENTED** [review]
Hello 👋
Some cosmetic changes to follow the style guide:

**Comment by psinary-sketch** [comment]
CI fails on proofwidgets/widgetJsAll (fork cache issue, not code). Builds clean locally: lake build Mathlib.NumberTheory.LSeries.SchwarzReflection succeeds with 2876 jobs, zero errors. Happy to rebase onto any branch where CI can access the widget cache.

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 11]
```diff
@@ -0,0 +1,200 @@
...
+The completed Riemann zeta function `Λ₀` satisfies
+`Λ₀(conj(s)) = conj(Λ₀(s))` for all `s : ℂ`.
+
+This follows from the Mellin representation: the kernel is real-valued,
+positive-real powers conjugate correctly, and the integral commutes
+with conjugation. -/
+theorem completedRiemannZeta₀_conj (s : ℂ) :
+    completedRiemannZeta₀ (starRingEnd ℂ s) = starRingEnd ℂ (completedRiemannZeta₀ s) := by
+  change mellin (hurwitzEvenFEPair 0).f_modif (starRingEnd ℂ s / 2) / 2 =
+    starRingEnd ℂ (mellin (hurwitzEvenFEPair 0).f_modif (s / 2) / 2)
```
Comment (tb65536) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: Wouldn't it be easier to just prove that `completedRiemannZeta₀` is real on the real axis (since that implies schwarz reflection?)

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 12]
```diff
@@ -0,0 +1,200 @@
...
+  rw [cpow_conj _ _ (arg_pos_real_ne_pi t ht)]
+  simp [conj_ofReal]
+
+private lemma conj_div_two (s : ℂ) :
+    starRingEnd ℂ (s / 2) = starRingEnd ℂ s / 2 := by
+  rw [map_div₀, conj_ofReal_two]
+
+private lemma conj_half_sub_one (s : ℂ) :
+    starRingEnd ℂ s / 2 - 1 = starRingEnd ℂ (s / 2 - 1) := by
+  rw [map_sub, conj_div_two, map_one]
```
Comment (tb65536) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: These sorts of things should probably be inlined into proofs rather than be private lemmas.

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 13]
```diff
@@ -0,0 +1,200 @@
...
+-/
+
+@[expose] public section
+
+
+open Complex HurwitzZeta MeasureTheory Set
+
+section SchwarzReflection
+
+private lemma conj_ofReal_two : (starRingEnd ℂ) (2 : ℂ) = 2 := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: This can probably be generalized to arbitrary `ofNat` (and might already exist).

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean [hunk 14]
```diff
@@ -0,0 +1,200 @@
+/-
+Copyright (c) 2026 interleaves. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: interleaves
```
Comment (tb65536) [inline Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: You should use your name, if possible.

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean (hunk 11 above)
Comment (psinary-sketch) [reply Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: Thanks for the review! Working on all four points:
1. Investigating the real-on-reals approach — agreed it should be cleaner
2. Will inline the private lemmas  
3. Will use the general lemma for conj of ofNat
4. Copyright updated

Will push when it compiles.

**Comment by psinary-sketch** [comment]
-awaiting-author

File: Mathlib/NumberTheory/LSeries/SchwarzReflection.lean (hunk 11 above)
Comment (tb65536) [reply Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: Have you been able to first prove real on the real axis, and then deducing Schwarz reflection from that? Also, it's worth thinking about whether you can generalize this to the more general setting of WeakFEPair.

Comment (psinary-sketch) [reply Mathlib/NumberTheory/LSeries/SchwarzReflection.lean]: Pushed the generalization. Architecture is now:

- mellin_conj_of_real_kernel: any real-valued kernel → mellin commutes with conj
- WeakFEPair.Λ₀_conj: Schwarz reflection for any WeakFEPair with real f_modif  
- completedRiemannZeta₀_conj: specialization via hurwitzEvenFEPair 0
- completedRiemannZeta₀_ofReal_im: real on ℝ (corollary)

**Comment by tb65536** [comment]
It seems that the review commits and responses entirely generated by AI, and this PR is remaining quite far from mathlib standards, so I'm going to close this to conserve reviewer capacity.
